US05264441
To a stirred solution of [(4R, 5R)-2-cyclohexyl-4,5-dimethyldioxolan-2-yl]methylamine (2.13 g 0.100 mole) in 40 ml of ethylacetate is added dropwise at room temperature 2,6-bis(1-methylethyl)phenylisocyanate (1.94 g 0.105 mole). The reaction mixture is stirred at room temperature for two hours. Volatiles are removed under reduced pressure and the residue is crystallized from ethylacetate/n-hexane, yielding 3.45 g of N-[2,6-bis(1-methylethyl)phenyl]-N'-[(4R,5R)-2-cyclohexyl-4,5-dimethyl-dioxolan-2-yl]methylurea, [α]D26 =-9.1 (C=0.653, AcOH).

reactant | [(4R, 5R)-2-cyclohexyl-4,5-dimethyldioxolan-2-yl]methylamine | 0.100 mole, 2.13 g | C1(CCCCC1)C1(O[C@@H]([C@H](O1)C)C)CN | C12H23NO2
reactant | 2,6-bis(1-methylethyl)phenylisocyanate | 0.105 mole, 1.94 g | CC(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | ethylacetate | 40 ml | C(C)OC(C)=O | C4H8O2
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-[(4R,5R)-2-cyclohexyl-4,5-dimethyl-dioxolan-2-yl]methylurea | 3.45 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NCC1(O[C@@H]([C@H](O1)C)C)C1CCCCC1 | C25H40N2O3
